US04914096
(a) Preparation of 3-oxo-3-[4-[2-(3,4,5-trimethoxyphenyl)ethyl]phenyl]propanenitrile
To a solution of 10 g (30 mmol) of methyl-4-[2-(3,4,5-trimethoxyphenyl)ethyl]benzoate and 1.74 ml (33 mmol) of acetonitrile in a mixture of 30 ml of dry N,N-dimethylformamide and 20 ml of dry tetrahydrofuran was added, portionwise under a nitrogen atmosphere at 0° C., 3 g (76 mmol) of a 60% suspension of sodium hydride in mineral oil. The resulting suspension was heated under a flow of nitrogen to 65° C. and maintained at this temperature for 2 hours. After cooling to 25° C., the resultant mixture was quenched with 3 ml of methanol and the solvent was removed in vacuo. The resultant residue was dissolved in 60 ml of water, acidified with 2N hydrochloric acid to a pH between 4 and 5 and then extracted with ethyl acetate. The combined organic phase was then washed successively with water and saturated sodium chloride solution and dried over magnesium sulfate, after which time the solvent was removed under reduced pressure. The crude product was then purified on silica gel employing a mixture of ethyl acetate and hexane in a 1:1 ratio as the eluent to yield a white crystalline solid.

reactant | methyl-4-[2-(3,4,5-trimethoxyphenyl)ethyl]benzoate | 30 mmol, 10 g | COC(C1=CC=C(C=C1)CCC1=CC(=C(C(=C1)OC)OC)OC)=O | C19H22O5
reactant | acetonitrile | 33 mmol, 1.74 ml | C(C)#N | C2H3N
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-oxo-3-[4-[2-(3,4,5-trimethoxyphenyl)ethyl]phenyl]propanenitrile | O=C(CC#N)C1=CC=C(C=C1)CCC1=CC(=C(C(=C1)OC)OC)OC | C20H21NO4
